US07989462B2
(6-Dimethylamino-2-methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine
To a mixture of (6-amino-2-methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine (16 mg, 0.05 mmol), 2 ml of 37% formaldehyde water solution and sodium cyanoborohydride (6.3 mg, 0.1 mmol) was added 2 N HCl (0.05 ml) at 0° C. The reaction mixture was stirred for 1 h at 0° C., then diluted by EtOAc (10 ml), washed with saturated NaHCO3 aq., brine, dried over Na2SO4, filtered and concentrated by vacuum. The crude product was purified by chromatography on silica gel with acetate, hexane (1:3 to 1:1) as eluent, yielding 11 mg of title compound (68.8%) as yellow solids. 1H NMR (CDCl3): 7.63 (d, J=9.0 Hz, 1H), 7.20-7.12 (m, 3H), 6.91-6.88 (m, 2H), 6.23 (d, J=2.7 Hz, 1H), 3.80 (s, 3H), 3.57 (s, 3H), 2.69 (s, 3H), 2.62 (s, 6H).

reactant | (6-amino-2-methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine | 0.05 mmol, 16 mg | NC=1C=C2C(=NC(=NC2=CC1)C)N(C)C1=CC=C(C=C1)OC | C17H18N4O
reactant | formaldehyde water | 2 ml | O.C=O
reactant | sodium cyanoborohydride | 0.1 mmol, 6.3 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 2 N, 0.05 ml | Cl | ClH
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | (6-Dimethylamino-2-methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methylamine | 11 mg, 68.8% | CN(C=1C=C2C(=NC(=NC2=CC1)C)N(C)C1=CC=C(C=C1)OC)C | C19H22N4O
